Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Neck swelling
 
Major Surgical or Invasive Procedure:
___ guided port removal
 
History of Present Illness:
___ year old female with chief complaint of neck swelling. 
Patient
has  stage III endometrial cancer s/p hysterectomy (___), and
2 cycles  of cisplatin (last dose ___ concurrent with XRT who
complains of  right neck swelling. Patient received chemotherapy
on ___ without complications. Did not take antiemetics as
prescribed but did not develop nausea/vomiting after
chemotherapy. On ___ patient developed dry heaves without
emesis. On ___ patient noticed neck swelling on right and 
erythema over chest. No dysphagia. No airway compromise. 
Presented to treatment area with heme/onc today and exam notable 
for neck swelling/firmness over right neck as well as swelling 
over suprasternal notch. Also notable for erythema over chest 
which is  new. CXR revealed appropriate placement of port. No 
airway compromise. 

In the ED, initial vitals: T 98.4  HR 113 BP 122/76  RR 18  
99%RA. 
On exam pt was: Right sided neck induration and swelling, airway 
patent, no neck stiffness, no trismus, no stridor. Erythema to 
chest
Labs were significant for: Lactate 1.1, Hct 31, plts
152, WBC 6.2 with 79% pmns.
Imaging was significant for: CT neck w/ hematoma. Ultrasound of 
neck with extensive RIJ thrombus with surrounding hematoma
Consults: Vascular: Concerned for RIJ thrombus. No acute 
vascular surgery interventions at this time, but will continue 
to follow.Patient given: IVF, Tylenol 1g

On transfer, vitals were: 99.1 91 113/64 20 95% RA
 
On arrival to the MICU, patient reports breathing comfortably. 
Denies dysphagia. Reports mild pain over the swelling of the R 
side of her neck, but improved from earlier this morning.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
ONCOLOGIC HISTORY:
- ___ vaginal bleeding, pelvic ultrasound showed 6.3 cm left
adnexal mass with cystic and solid components demonstrating
vascularity c/f neoplasm; also showed heterogenous endometrium
- ___ endometrial biopsy showed endometrial 
adenocarcinoma,
endometrioid type grade I 
- ___ Total laparoscopic hysterectomy and bilateral
salpingo-oophorectomy, omental biopsy, pelvic and periaortic
lymph node dissection, perineal revision. The left 8 cm ovarian
cyst ruptured. Frozen section returned for adenocarcinoma
possibly endometrioid type of the ovary and gross examination of
the uterus revealed a lesion invading ___ of the uterus.
Pelvic lymphadenectomy was performed. Path revealed endometrial
adenocarcinoma (loss of MLH 1 and PMS2). Left adenexal mass
(adenocarcinoma), negative lymph nodes, grade I, 25% myometrial
invasion, + LVI
- ___ start of XRT
- ___ C1D1 cisplatin

PAST MEDICAL HISTORY:
- uterine fibroids
- G3P1 (SVD ___
- last mammogram in our system was in ___ which was normal,
patient has not had a colonoscopy

PAST SURGICAL HISTORY:
- ___ open myomectomy, endometrial polypectomy and IUD 
removal
 
Social History:
___
Family History:
- Father with colon cancer, diagnosed at age ___, tobacco use,
died following a myocardial infarction
- No known family history of breast, uterine, ovarian or 
cervical
cancer
- No known history of bleeding or clotting disorder
 
Physical Exam:
Admission Physical Exam:
========================
Vitals: 98.1 100 119/68 21 95% RA
GENERAL: Alert, pleasant, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: Swelling over R neck, nontender to palpation. Erythema 
over the anterior neck. 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No lesions. 
NEURO: A&O x3. CN II-XII intact. Sensation, strength intact.  
ACCESS: PIVs, R port

DISCHARGE PHYSICAL EXAM
=======================
Vital Signs:  98.1 PO ___ 18 98 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, slight right 
neck fullness
CHEST: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Without rashes or lesions. PAS boots on.
Neuro:  CN II-XII intact

 
Pertinent Results:
Admission Labs:
===============
___ 06:45PM BLOOD WBC-6.2# RBC-3.61* Hgb-10.5* Hct-31.5* 
MCV-87 MCH-29.1 MCHC-33.3 RDW-13.8 RDWSD-43.2 Plt ___
___ 06:45PM BLOOD Neuts-79.6* Lymphs-6.0* Monos-12.6 
Eos-1.3 Baso-0.2 Im ___ AbsNeut-4.95# AbsLymp-0.37* 
AbsMono-0.78 AbsEos-0.08 AbsBaso-0.01
___ 02:43AM BLOOD ___ PTT-28.2 ___
___ 06:45PM BLOOD Glucose-101* UreaN-10 Creat-0.6 Na-135 
K-3.9 Cl-95* HCO3-26 AnGap-18
___ 06:45PM BLOOD Calcium-8.9 Phos-3.5 Mg-2.1
___ 07:13PM BLOOD Lactate-1.1
___ 08:25AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:25AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-LG
___ 08:25AM URINE RBC-3* WBC-52* Bacteri-NONE Yeast-NONE 
Epi-1
___ 08:25AM URINE CastHy-1*
___ 07:25PM URINE UCG-NEGATIVE
Imaging:
========
___ CXR:
Patient is status post port placement with catheter tip 
terminating in the 
upper right atrium. 

___ CT Neck w/ Contrast:
No contrast enhancement within the right internal jugular vein 
concerning for possible thrombosis.  Fluid within the right 
carotid space concerning for hematoma.

___xtensive thrombus involving the right internal jugular vein 
with surrounding hematoma.

___ CXR:
Tiny left pleural effusion.

___ CT Neck w/ Contrast:
1. Persistent acute appearing right internal jugular vein 
thrombosis with 
slightly decreased surrounding hematoma but increased extent of 
clot superiorly to the level of the skullbase and inferiorly 
into the SVC. 
2. Collection of fluid and air in the subcutaneous tissues of 
the right 
anterior chest is likely normal in the early postoperative 
period following right pectoral Port-A-Cath removal.  Clinical 
follow-up is recommended. 
3. Prominent cervical and upper mediastinal lymph nodes are 
likely reactive. 
 
 
Discharge labs:

___ 05:35AM BLOOD WBC-2.5* RBC-3.55* Hgb-10.4* Hct-31.1* 
MCV-88 MCH-29.3 MCHC-33.4 RDW-13.8 RDWSD-43.8 Plt ___
___ 05:35AM BLOOD Neuts-60.7 Lymphs-16.9* Monos-16.1* 
Eos-4.3 Baso-1.2* Im ___ AbsNeut-1.54*# AbsLymp-0.43* 
AbsMono-0.41 AbsEos-0.11 AbsBaso-0.03
___ 05:35AM BLOOD Neuts-60.7 Lymphs-16.9* Monos-16.1* 
Eos-4.3 Baso-1.2* Im ___ AbsNeut-1.54*# AbsLymp-0.43* 
AbsMono-0.41 AbsEos-0.11 AbsBaso-0.03
___ 05:35AM BLOOD ___ PTT-31.9 ___
___ 05:35AM BLOOD Glucose-118* UreaN-12 Creat-0.6 Na-138 
K-4.2 Cl-99 HCO3-25 AnGap-18
___ 05:35AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.3

Micro:
___ Bcx x2  no growth
___ Bcx x2  no growth
___ Ucx no growth 
 
Brief Hospital Course:
___ year old female with stage III endometrial cancer s/p 
hysterectomy (___), undergoing chemotherapy and XRT 
presenting with R neck swelling and found to have RIJ thrombus 
and hematoma.

# Right IJ Thrombus: presented with swelling causing mass effect 
and tracheal deviation. Imaging was consistent with R internal 
jugular thrombus with surrounding hematoma. Port was thought to 
be possibly too low causing obstruction leading to thrombus 
formation. Hematoma was likely due to high pressure in IJ in the 
setting of vomiting due to obstruction from RIJ thrombus. 
Patient remained hemodynamically stable with no signs of airway 
compromise. She underwent ___ guided port removal on ___. 
Repeat CT on ___ redemonstrated thrombus with stable to 
slightly decreased surrounding hematoma. Heparin drip without 
bolus started after H/H stable and hematoma resolving. She was 
transitioned to lovenox with treatment for likely 90 days. ___ 
declined thrombolysis as patient was asymptomatic.

# Anemia - normocytic. Thought to be chemotherapy/radiation 
induced with inflammatory block. There was no clinical evidence 
of brisk bleeding. H/H was stable and discharge H/H was 
10.4/31.1.

# Leukopenia: Day of discharge, WBC was 2.5 from admission WBC 
of 4.9. Has been leukopenic in the past to 3.1. Unclear if this 
is chemotherapy or radiation induced but recommend outpatient 
follow up.

# Endometrial carcinoma - s/p cisplatin C2D1 on ___, with plan 
to start carboplatin/paclitaxel on ___. s/p pelvic XRT.

# Fever: with positive UA but asymptomatic. Urine culture 
negative.
 - s/p Ciprofloxacin (___). 

# ADVANCE CARE PLANNING
- Code Status: Full 

TRANSITIONAL ISSUES
===================
[] Leukopenia: Patient has leukopenia to 2.5 on day of 
discharge. Please re-check labs at outpatient oncology 
appointment.
[] CHANGED MEDICATIONS:
-New medication: Lovenox, please discuss length of treatment
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
3. LORazepam 0.5 mg PO Q8H:PRN nausea/anxiety 
4. Ibuprofen 400 mg PO BID:PRN Pain - Mild 
5. Prochlorperazine ___ mg PO Q8H:PRN nausea 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC every twelve (12) hours 
Disp #*90 Syringe Refills:*0 
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  Ibuprofen 400 mg PO BID:PRN Pain - Mild  
4.  LORazepam 0.5 mg PO Q8H:PRN nausea/anxiety  
5.  Ondansetron 8 mg PO Q8H:PRN nausea  
6.  Prochlorperazine ___ mg PO Q8H:PRN nausea  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
-Right Internal Jugular Thrombus

SECONDARY DIAGNOSIS
====================
-Endometrial Cancer
-Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___!

WHY DID YOU COME TO ___?
You were having neck pain and swelling and you were found to 
have a blood clot in your vein that was from your port. 

WHAT DID WE DO IN THE HOSPITAL?
First, you had the port removed by the interventional 
radiologists. We then started you on a blood thinner called 
heparin through your IV and then switched you to lovenox, which 
is another blood thinner that you can inject at home.

WHAT SHOULD YOU DO WHEN YOU GO HOME?
You should continue to use the lovenox. It is important that you 
follow up with your cancer doctor and primary care doctor.

We wish you the best,
Your care team at ___
 
Followup Instructions:
___